US07678803B2
7-Hydrazino-quinazolin-4-ylamine
7-Fluoro-quinazolin-4-ylamine (0.306 mmol, 50 mg) is dissolved in Hydrazine (2 mL) and heated in an open flask until all the liquid is gone. The resulting solid is taken up in isopropanol and stirred for 30 minutes and the solid is collected by filtration. This gives desired product 7-Hydrazino-quinazolin-4-ylamine (32 mg, LC/MS m/z=176 [M+H]+) as a tan powder.

reactant | 7-Fluoro-quinazolin-4-ylamine | 0.306 mmol, 50 mg | FC1=CC=C2C(=NC=NC2=C1)N | C8H6FN3
reactant | Hydrazine | 2 mL | NN | H4N2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-Hydrazino-quinazolin-4-ylamine | 32 mg | N(N)C1=CC=C2C(=NC=NC2=C1)N | C8H9N5
